US04812461
N-[4-{4-(4-Fluorobenzoyl)piperidinyl}-2-hydroxybutyl]cyclohexane-1,2-dicarboximide (Compound No. 3)
To a mixture of 60% sodium hydride (0.26 g) and dimethylformamide (20 ml), cyclohexane-1,2-dicarboximide (1.13 g) was gradually added. A mixture of 1-(3,4-epoxybutyl)-4-(4-fluorobenzoyl)piperidine (1.7 g) and dimethylformamide (50 ml) was dropwise added thereto at room temperature, and the resultant mixture was kept at an inner temperature of 90° to 100° C. for 3 hours. Insoluble materials were removed by filtration, and the filtrate was distilled to eliminate dimethylformamide. The residue was dissolved in chloroform, washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the objective compound (0.27 g). Yield, 10.2%. M.P., 129°-130° C.

reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | cyclohexane-1,2-dicarboximide | 1.13 g | C12C(CCCC1)C(NC2=O)=O | C8H11NO2
reactant | 1-(3,4-epoxybutyl)-4-(4-fluorobenzoyl)piperidine | 1.7 g | O1C(CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C1 | C16H20FNO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[4-{4-(4-Fluorobenzoyl)piperidinyl}-2-hydroxybutyl]cyclohexane-1,2-dicarboximide | 0.27 g | FC1=CC=C(C(=O)C2CCN(CC2)CCC(CN2C(=O)C3C(CCCC3)C2=O)O)C=C1 | C24H31FN2O4
